US07432401B2
Preparation of 1,5-bis(4-hydroxy-3-methoxyphenyl)-penta 1,4-dien-3-one. (Method 1)
From vanillin and acetone in a 2:1 molar rate in acid medium, in temperatures that changes between 25 and 60° C., under ultrasonic irradiation conditions in a range from 25 to 40 KHz for a period of 1 to 3 hours further putting the reacted mixture into water/ice until producing the raw product, which dissolves in a solution of sodium hydroxide or potassium hydroxide (between 10-30%) being filtered; the filtrated is treated with hydrochloric acid or sulphuric acid from a concentration between 10-30%, the obtained product being filtered again, finally it is washed with distillated water until obtaining a neutral pH, this operation being repeated until the total purification of the product, not being necessary to perform a new purification of the compound using other procedures such as recrystallization or chromatographic column (the purity was determined by means of the HPLC technique):

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | acetone | CC(=O)C | C3H6O
product | 1,5-bis(4-hydroxy-3-methoxyphenyl)-penta 1,4-dien-3-one | OC1=C(C=C(C=C1)C=CC(C=CC1=CC(=C(C=C1)O)OC)=O)OC | C19H18O5
